US04801705
9.53 ml of N-methyl-N-(trimethylsilyl)trifluoroacetamide (0.051 mol) was added to a suspension of 4.2 g of 3,4-dihydroxybenzoic acid, 1-methylhydrazide (0.023 mol). After warming the suspension to 50° C. for one hour, a clear solution of 3,4-bis(trimethylsilyl)benzoic acid, 1-methylhydrazide was obtained.

reactant | N-methyl-N-(trimethylsilyl)trifluoroacetamide | 0.051 mol, 9.53 ml | CN(C(C(F)(F)F)=O)[Si](C)(C)C | C6H12F3NOSi
reactant | 3,4-dihydroxybenzoic acid, 1-methylhydrazide | 0.023 mol, 4.2 g | CN(N)C(C1=CC(=C(C=C1)O)O)=O | C8H10N2O3
product | 3,4-bis(trimethylsilyl)benzoic acid, 1-methylhydrazide | CN(N)C(C1=CC(=C(C=C1)[Si](C)(C)C)[Si](C)(C)C)=O | C14H26N2OSi2
